US07109219B2
1-(4-Chloropyridin-2-yl)-3-(3-diethylaminopropyl)urea
Phenyl(4-chloropyridin-2-yl)-N-(phenoxycarbonyl)carbamate (738 mg, 2.00 mmol) was dissolved in N,N-dimethylformamide (8.0 ml); N,N-diethyl-1,3-diaminopropane (1.57 ml, 10.0 mmol) was added thereto; and the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was partitioned between water and ethyl acetate; and the organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Fuji Silysia NH, hexane-ethyl acetate-methanol system) to yield the title compound (309 mg, 1.09 mmol, 54.3%) as a pale brown oil.

reactant | Phenyl(4-chloropyridin-2-yl)-N-(phenoxycarbonyl)carbamate | 2.00 mmol, 738 mg | C1(=CC=CC=C1)OC(N(C(=O)OC1=CC=CC=C1)C1=NC=CC(=C1)Cl)=O | C19H13ClN2O4
reactant | N,N-diethyl-1,3-diaminopropane | 10.0 mmol, 1.57 ml | C(C)N(CCCN)CC | C7H18N2
solvent | N,N-dimethylformamide | 8.0 ml | CN(C=O)C | C3H7NO
product | 1-(4-Chloropyridin-2-yl)-3-(3-diethylaminopropyl)urea | 1.09 mmol, 309 mg, 54.3% | ClC1=CC(=NC=C1)NC(=O)NCCCN(CC)CC | C13H21ClN4O
